US04263311
A stirred mixture of 3.2 g. (0.0104 mole) of 5,6-bis(p-aminophenyl)-2,3-dihydroimidazo[2,1-b]thiazole, 4.8 g. (0.026 mole) of pivalic anhydride and 3.18 g. (0.031 mole) of pivalic acid was refluxed at 195°-210° C. under nitrogen for 75 minutes. After cooling to room temperature, the mixture was dissolved in hot chloroform. This solution was washed with 5% aqueous sodium carbonate and water, then dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was recrystallized from methanol-ether and then from chloroform to give 5,6-bis(p-pivalamidophenyl)-2,3-dihydroimidazo[2,1-b]thiazole, m.p. 210°-215° C.

reactant | 5,6-bis(p-aminophenyl)-2,3-dihydroimidazo[2,1-b]thiazole | 0.0104 mole | NC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)N | C17H16N4S
reactant | pivalic anhydride | 0.026 mole | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | pivalic acid | 0.031 mole | C(C(C)(C)C)(=O)O | C5H10O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5,6-bis(p-pivalamidophenyl)-2,3-dihydroimidazo[2,1-b]thiazole | C(C(C)(C)C)(=O)NC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)NC(C(C)(C)C)=O | C27H32N4O2S
